US06809097B1
A solution of 4-chloro-6,7-dimethoxy-3-nitroquinoline (1.07 g, 4 mmol) in ethanol (40 ml) containing Raney Nickel (1 g) was stirred under hydrogen at atmospheric pressure for 3 hours. The volatiles were removed by evaporation. The residue was triturated with petroleum ether, collected by filtration and dried under vacuum to give 3-amino-4-chloro-6,7-dimethoxyquinoline (925 mg, 97%).

reactant | 4-chloro-6,7-dimethoxy-3-nitroquinoline | 4 mmol, 1.07 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)[N+](=O)[O-] | C11H9ClN2O4
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Raney Nickel | 1 g | [Ni] | Ni
product | 3-amino-4-chloro-6,7-dimethoxyquinoline | 925 mg, 97% | NC=1C=NC2=CC(=C(C=C2C1Cl)OC)OC | C11H11ClN2O2
